US07319099B2
(a) 4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 20 mmol 1-bromo-2-fluoro-4-trifluoromethyl-benzene, 24.7 mmol n-Boc-piperazine, 0.1 mmol Tris(dibenzylideneacetone)dipalladium chloroform complex, 28.8 mmol sodium-t-butoxide and 0.4 mmol 2-(dicyclohexylphosphino)biphenyl in 50 ml toluene was heated for 16 h at 80° C. After cooling to RT the mixture was treated with 15 g Isolute HM-N and all volatiles were removed under vacuum. The residue was purified on silica eluting with a gradient of heptane/EtOAc to yield after evaporation the title compound.

reactant | 1-bromo-2-fluoro-4-trifluoromethyl-benzene | 20 mmol | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | n-Boc-piperazine | 24.7 mmol | CC(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium-t-butoxide | 28.8 mmol | CC(C)([O-])C.[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.4 mmol | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)F | C16H20F4N2O2
